US05512207
1.6 g (5.73 mmol) of 2-decyloxypyridin-5-boronic acid, 0.28 g (1.91 mmol) of 3,6-dichloropyridazine, 0.03 g (0.024 mmol) of tetrakis(triphenylphosphine)palladium(0) and 0.97 g (9.17 mmol) of sodium carbonate are heated at 80° C. for 24 hours in 30 ml of toluene, 20 ml of ethanol and 10 ml of water. The palladium catalyst is subsequently separated from the reaction mixture by filtration at 80° C. The aqueous lower phase of the reaction mixture is separated off at 80° C., and the organic phase is then freed from solvents in a rotary evaporator and dried in a high vacuum. The crude product obtained in this way is chromatographed on silica gel using dichloromethane/ethyl acetate=20/1 and subsequently recrystallized from acetonitrile, giving 0.38 g of 3,6-bis(2-decyloxypyridin-5-yl)pyridazine (99.5% according to HPLC).

reactant | 2-decyloxypyridin-5-boronic acid | 5.73 mmol, 1.6 g | C(CCCCCCCCC)OC1=NC=C(C=C1)B(O)O | C15H26BNO3
reactant | 3,6-dichloropyridazine | 1.91 mmol, 0.28 g | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
reactant | sodium carbonate | 9.17 mmol, 0.97 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethanol | 20 ml | C(C)O | C2H6O
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.024 mmol, 0.03 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 10 ml | O | H2O
product | 3,6-bis(2-decyloxypyridin-5-yl)pyridazine | 0.38 g, 99.5% | C(CCCCCCCCC)OC1=NC=C(C=C1)C=1N=NC(=CC1)C=1C=CC(=NC1)OCCCCCCCCCC | C34H50N4O2
